US05929235
5H-Dibenz[b,f]azepine in an amount of 20.0 g (0.10 mol), 4,4'-diiodobiphenyl in an amount of 60.9 g (0.15 mol), potassium hydroxide in an amount of 6.7 g (0.12 mol) and a copper powder in an amount of 1.3 g (0.02 mol) were mixed with 20 ml of decalin, and heated with stirring in a stream of nitrogen for 36 hours at the external temperature of 200° C. After cooling to room temperature or its vicinity, the reaction solution was admixed with chloroform, and subjected to Celite filtration to remove the insoluble matter. The filtrate was concentrated, and the concentrated solution was purified by column chromatography on silica gel. Thus, 23.6 g of 5-(4'-iodobiphenyl-4-yl)dibenz[b,f]azepine was obtained (in a 50% yield).

reactant | 5H-Dibenz[b,f]azepine | C1=CC=CC=2NC3=C(C=CC21)C=CC=C3 | C14H11N
reactant | 4,4'-diiodobiphenyl | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
reactant | potassium hydroxide | [OH-].[K+]
reactant | decalin | 20 ml | C1CCCC2CCCCC12 | C10H18
catalyst | copper | [Cu] | Cu
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(4'-iodobiphenyl-4-yl)dibenz[b,f]azepine | 23.6 g, 50% yield | IC1=CC=C(C=C1)C1=CC=C(C=C1)N1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C26H18IN
